US05455252
A solution of N-bromosuccinimide (1.4 gm) in 10 mL dimethylformamide was added in a dropwise manner to a solution of 4-(4-aminobenzyl)pyridine (1.5 gm) in 10 mL of dimethylformamide. The reaction flask was wrapped in aluminum foil to prevent exposure of the reagents to light. The reaction mixture was stirred at room temperature for 3 hours. The progress of the reaction was monitored by thin-layer chromatography. When the reaction was completed, the reaction mixture was combined with 100 mL of H2O with stirring. A reddish brown precipitate was formed, filtered out of solution, washed with H2O, and air dried. The solid was dissolved in ethyl acetate, back washed with saturated NaCl, dried over MgSO4 and triturated with ethyl ether. The solid was filtered from the solution and air dried yielding 1.6 gm of 4-(4-amino-3-bromobenzyl)pyridine as reddish/tan crystals.

reactant | N-bromosuccinimide | 1.4 gm | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 4-(4-aminobenzyl)pyridine | 1.5 gm | NC1=CC=C(CC2=CC=NC=C2)C=C1 | C12H12N2
reactant | H2O | 100 mL | O | H2O
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | aluminum | [Al] | Al
product | 4-(4-amino-3-bromobenzyl)pyridine | 1.6 gm | NC1=C(C=C(CC2=CC=NC=C2)C=C1)Br | C12H11BrN2
